US06495305B1
d. Tribromoethylmethacrylate (TBEMA)
A first solution comprising tribromoethanol (50 g, 177 mmol) and triethylamine (19.73 g, 195 mmol) dissolved in 70 g of diethylether was prepared. A second solution comprising methacryloyl chloride (20.39 g, 195 mmol) dissolved in 70 g of diethylether was added dropwise to the first solution followed by stirring for four hours at room temperature. The resulting solution was then added to water, and the organic phase was extracted. The organic phase was distilled to yield 32.85 g of TBEMA (52.9% yield).

reactant | tribromoethanol | 177 mmol, 50 g | C(C(Br)(Br)Br)O | C2H3Br3O
reactant | triethylamine | 195 mmol, 19.73 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 195 mmol, 20.39 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | diethylether | 70 g | C(C)OCC | C4H10O
solvent | diethylether | 70 g | C(C)OCC | C4H10O
product | Tribromoethylmethacrylate | 52.9% yield | BrC(COC(C(=C)C)=O)(Br)Br | C6H7Br3O2
